US07777047B2
1-tert-butyl 2-ethyl 7-amino-5-(2-methoxyethoxy)indoline-1,2-dicarboxylate
A mixture of 1-tert-butyl 2-ethyl 5-(2-methoxyethoxy)-7-nitro-1H-indole-1,2-dicarboxylate (3.9 g), 10% palladium-carbon (50% containing water, 400 mg) and tetrahydrofuran (80 mL) was stirred at room temperature under hydrogen atmosphere at normal pressure for 6 hr. The catalyst was filtered off, and the filtrate was concentrated. The residue was subjected to silica gel column chromatography to give the title compound (3.22 g, yield 89%) as a colorless solid from a fraction eluted with ethyl acetate-hexane (9:1, volume ratio).

reactant | 1-tert-butyl 2-ethyl 5-(2-methoxyethoxy)-7-nitro-1H-indole-1,2-dicarboxylate | 3.9 g | COCCOC=1C=C2C=C(N(C2=C(C1)[N+](=O)[O-])C(=O)OC(C)(C)C)C(=O)OCC | C19H24N2O8
catalyst | palladium-carbon | 400 mg | [C].[Pd]
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
product | 1-tert-butyl 2-ethyl 7-amino-5-(2-methoxyethoxy)indoline-1,2-dicarboxylate | 3.22 g, yield 89% | NC=1C=C(C=C2CC(N(C12)C(=O)OC(C)(C)C)C(=O)OCC)OCCOC | C19H28N2O6
